US04406686
Six and seven-tenths g (0.04 mole) of N-(2,3-dihydroxypropyl) chloroacetamide, 7.3 g (0.04 mole) of triallylorthoformate, 0.2 g of ammonium chloride, and 50 ml of dichloroethane were combined in a reaction flask and distilled to a head temperature of 82° C. The distillate was cooled to room temperature, stirred with potassium carbonate and filtered over Florisil. The filtrate was evaporated to yield 3.2 g of 2-allyloxy-4-(chloroacetylamino) methyl-1,3-dioxolane, a yellow oil. Structure was confirmed by NMR. nD30 =1.4888.

reactant | N-(2,3-dihydroxypropyl) chloroacetamide | 0.04 mole | OC(CNC(CCl)=O)CO | C5H10ClNO3
reactant | triallylorthoformate | 0.04 mole, 7.3 g | C(C=C)OC(OCC=C)OCC=C | C10H16O3
reactant | ammonium chloride | 0.2 g | [Cl-].[NH4+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 2-allyloxy-4-(chloroacetylamino) methyl-1,3-dioxolane | 3.2 g | C(C=C)OC1OCC(O1)CNC(CCl)=O | C9H14ClNO4
